US06541638B2
A solution of 9.55 g (48.6 mmol) 2-chloro-1,1,1-triethoxyethane and 3.9 ml (30 mmol) 4-methoxybenzylamine were heated at 40° C. for 15 min. Then a solution of 2.92 g (45 mmol) sodium azide in 60 ml acetic acid was added at RT and heated at 60° C. over night, 20h at 80° C. and 1h at 100° C. The reaction was neutralized with aqueous and solid NaHCO3/EtOAc (3×), washed with aqueous 10% NaCl. The organic phase was dried over Na2SO4, evaporated and purified by flash-chromatography on silicagel (hexane/EtOAc 1:1) to give 3.36 g (47%) 5-Chloromethyl-1-(4-methoxy-benzyl)-1H-tetrazole, MS: 238 (M). [Y. Satoh, S. De Lombaert, N. Marcopulos, J. Moliterni, M. Moskal, J. Tan, E. Wallace, Synthesis of tetrazole analogs of alpha-amino acids by alkylation of a Schiff base of alpha-aminomethyltetrazole. Tetrahedron Lett. (1998), 39(21), 3367-3370].

reactant | 2-chloro-1,1,1-triethoxyethane | 48.6 mmol, 9.55 g | ClCC(OCC)(OCC)OCC | C8H17ClO3
reactant | 4-methoxybenzylamine | 30 mmol, 3.9 ml | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | sodium azide | 45 mmol, 2.92 g | [N-]=[N+]=[N-].[Na+]
reactant | NaHCO3 EtOAc | C(=O)(O)[O-].[Na+].CCOC(=O)C
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 5-Chloromethyl-1-(4-methoxy-benzyl)-1H-tetrazole | 3.36 g, 47% | ClCC1=NN=NN1CC1=CC=C(C=C1)OC | C10H11ClN4O
